US08003796B2
Step A. Preparation of 4-hydroxy-1-(4-(methylsulfonyl)phenyl)-6-oxo-1,6-dihydropyridine-3-carbonitrile
A mixture of 4-hydroxy-6-oxo-1,6-dihydropyridine-3-carbonitrile (200 mg, 1.469 mmol, Medinoah), 1-bromo-4-(methylsulfonylbenzene (345 mg, 1.469 mmol), 4,7-dimethoxy-1,10-phenanthroline (70.6 mg, 0.294 mmol), copper(I) iodide (56.0 mg, 0.294 mmol) and potassium carbonate (609 mg, 4.41 mmol) in DMSO (3 mL) was heated at 190° C. To the reaction mixture was added H2O (10 mL) and the pH adjusted to ˜2 using with 1N HCl. The resulting aqueous mixture was extracted with EtOAc (40 mL, 2×). The combined extracts were dried over Na2SO4 and concentrated to give a brown oil. The crude oil was purified by flash chromatography (SiO2, 0-5% MeOH/CH2Cl2) to give a yellow solid (35 mg, 0.084 mmol, 5.74%). MS (ESI) 291 (M+H).

reactant | 4-hydroxy-6-oxo-1,6-dihydropyridine-3-carbonitrile | 1.469 mmol, 200 mg | OC=1C(=CNC(C1)=O)C#N | C6H4N2O2
reactant | methylsulfonylbenzene | 1.469 mmol, 345 mg | CS(=O)(=O)C1=CC=CC=C1 | C7H8O2S
reactant | 4,7-dimethoxy-1,10-phenanthroline | 0.294 mmol, 70.6 mg | COC1=CC=NC2=C3N=CC=C(C3=CC=C12)OC | C14H12N2O2
reactant | potassium carbonate | 4.41 mmol, 609 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.294 mmol, 56.0 mg | [Cu]I
solvent | H2O | 10 mL | O | H2O
product | 4-hydroxy-1-(4-(methylsulfonyl)phenyl)-6-oxo-1,6-dihydropyridine-3-carbonitrile | 0.084 mmol, 35 mg, 5.74% | OC=1C(=CN(C(C1)=O)C1=CC=C(C=C1)S(=O)(=O)C)C#N | C13H10N2O4S
